US06071925
(RS)-8-(6-Chloro-chroman-4-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p.>250° C. and MS: m/e=398.2 (M+H+) was prepared in accordance with the general method of example 11 from 6-chloro-2,3 -dihydro-4H-1-benzopyran-4-one oxide and 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one.

reactant | 6-chloro-2,3 -dihydro-4H-1-benzopyran-4-one oxide | ClC=1C=CC23C(C(CCO2)=O)(C1)O3 | C9H7ClO3
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
product | (RS)-8-(6-Chloro-chroman-4-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.ClC=1C=C2C(CCOC2=CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C22H24ClN3O2.ClH/c23-16-6-7-20-18(14-16)19(8-13-28-20)25-11-9-22(10-12-25)21(27)24-15-26(22)17-4-2-1-3-5-17;/h1-7,14,19H,8-13,15H2,(H,24,27);1H
